US04585767
4-Nitrobenzyl 2-(4-allylthio-3-ethylazetidin-2-on-1-yl)acetate
A mixture of 2.5 g of 2-(4-allylthio-3-ethylazetidin-2-on-1-yl)acetic acid, 8 ml of dimethylacetamide and 636 mg of anhydrous sodium carbonate was stirred under argon for 20 minutes, and then 2.59 g of 4-nitrobenzyl bromide were added. After 30 minutes further stirring, the mixture was partitioned between ethyl acetate and water. The organic layer was separated and was washed with saturated sodium bicarbonate, with water, with brine, was dried over MgSO4, and was evaporated in vacuo to dryness. Chromatography over silica gel, eluting with hexane-ethyl acetate mixtures, afforded the title compound as a pale yellow oil. (3.0 g)

reactant | 2-(4-allylthio-3-ethylazetidin-2-on-1-yl)acetic acid | 2.5 g | C(C=C)SC1C(C(N1CC(=O)O)=O)CC | C10H15NO3S
reactant | sodium carbonate | 636 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-nitrobenzyl bromide | 2.59 g | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
solvent | dimethylacetamide | 8 ml | CC(=O)N(C)C | C4H9NO
product | 4-Nitrobenzyl 2-(4-allylthio-3-ethylazetidin-2-on-1-yl)acetate | C(C=C)SC1C(C(N1CC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O)CC | C17H20N2O5S
